US06573274B1
To a suspension of 5,6-dichloronicotinic acid (5.1 g) in tert-butyl alcohol (50 ml) were added triethylamine (2.7 g) and phosphorus diphenylazide (7.3 g) in a nitrogen atmosphere and the mixture was heated to 80° C. After 8 hr, the reaction mixture was cooled and water and ethyl acetate were added. The mixture was washed 3 times with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the filtrate was concentrated. The residue was applied to flash silica gel chromatography (silica gel, 30 ml) and eluted with hexane:ethyl acetate=5:1-2:1 to give 3-(N-(tert-butoxycarbonyl)amino)-5,6-dichloropyridine as a colorless solid (6.49 g).

reactant | 5,6-dichloronicotinic acid | 5.1 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | triethylamine | 2.7 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | 3-(N-(tert-butoxycarbonyl)amino)-5,6-dichloropyridine | 6.49 g | C(C)(C)(C)OC(=O)NC=1C=NC(=C(C1)Cl)Cl | C10H12Cl2N2O2
